US04719049
Using the reductive amination outlined in 1, 10-chloro-9-anthraldehyde (Aldrich) and 2-amino-2-ethyl-1,3-propanediol (Aldrich) gave 2-(((10-chloro-9-anthracenyl)methyl)amino)-2-ethyl-1,3-propanediol hydrochloride, mp 252°-254° (dec), (CH3OH/Et2O), (C, H, Cl, N).

reactant | 10-chloro-9-anthraldehyde | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | 2-amino-2-ethyl-1,3-propanediol | NC(CO)(CO)CC | C5H13NO2
solvent | CH3OH Et2O | CO.CCOCC
product | 2-(((10-chloro-9-anthracenyl)methyl)amino)-2-ethyl-1,3-propanediol hydrochloride | Cl.ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)CNC(CO)(CO)CC | InChI=1S/C20H22ClNO2.ClH/c1-2-20(12-23,13-24)22-11-18-14-7-3-5-9-16(14)19(21)17-10-6-4-8-15(17)18;/h3-10,22-24H,2,11-13H2,1H3;1H
